US08304557B2
3-methyl-N-(3-{[2-(propanoylamino)[1,2,4]triazolo[1,5-a]pyridin-6-yl]oxy}phenyl)pyridine-2-carboxamide
To a solution of N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (120 mg, 0.333 mmol) in N,N-dimethylacetamide (5 mL) was added propionylchloride (29.2 μL, 0.336 mmol), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0%→100% ethyl acetate-hexane) to give the title compound (101 mg, 73%) as a white solid.

reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.333 mmol, 120 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)=N1 | C19H16N6O2
reactant | propionylchloride | 0.336 mmol, 29.2 μL | C(CC)(=O)Cl | C3H5ClO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 3-methyl-N-(3-{[2-(propanoylamino)[1,2,4]triazolo[1,5-a]pyridin-6-yl]oxy}phenyl)pyridine-2-carboxamide | 101 mg, 73% | CC=1C(=NC=CC1)C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(C1)N=C(N2)NC(CC)=O | C22H20N6O3
